US06252084B1
A mixture of 590 mg (1.3 mmol) of [4-[[3-(2-amino-2-oxoethyl)-1-decyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid ethyl ester and 1.5 mL of 5N NaOH in 20 mL of MeOH was heated to maintain reflux for 2.5 hours, cooled, poured into water and made strongly acidic with 5N HCl. The precipitate was filtered and recrystallized from MeOH. There was obtained 430 mg (77% yield) of [4-[[3-(2-amino-2-oxoethyl)-1-decyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid, mp, 163-165° C.

reactant | 4-[[3-(2-amino-2-oxoethyl)-1-decyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid ethyl ester | C(C)OC(CCCOC=1C=C2C(=C(N(C2=CC1)CCCCCCCCCC)C)CC(=O)N)=O | C27H42N2O4
reactant | NaOH | 5N, 1.5 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | HCl | 5N | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 4-[[3-(2-amino-2-oxoethyl)-1-decyl-2-methyl-1-H-indol-5-yl]oxy]butanoic acid | 77% yield | NC(CC1=C(N(C2=CC=C(C=C12)OCCCC(=O)O)CCCCCCCCCC)C)=O | C25H38N2O4
